US06900357B2
Synthesis of 2,4,6-tri-O-benzyl-D-glucopyranose:
Freshly distilled benzyloxyacetaldehyde (150 mg, 1.0 mmol) was added to a stirring solution of (2S,5S)-5-benzyl-2-tert-butyl-3-methylimidazolidin-4-one trichloroacetate (27.3 mg, 67 μmol) in diethyl ether (330 μL, 3.0 M) at −20° C. After complete consumption of the starting material was determined by TLC analysis (24 h), the reaction mixture was diluted with ethyl acetate, washed with saturated NH4Cl, brine, dried over anhydrous Na2SO4 and concentrated in vacuo. Flash chromatography (19:1 dichloromethane:diethyl ether)afforded the title compound as a clear, colorless oil in 85% yield (104 mg, 0.69 mmol), 95% ee, and 11:1 dr. 1H NMR (300 MHz, CDCl3) δ7.31 (m, 15H, Ar—H), 5.38 (m, 1H, OCHO), 4.83 (m, 1H, CHCH2), 4.55 (br, m, 5H), 4.12 (br m, 1H, 3.64 (br m, 4H, CHO), 3.30 (m, 1H, CHO); 13C NMR (75 MHz, CDCl3) δ(α-anomer) 90.4 (C-1), 74.6 (C-3), and 68.9 (C-6); (β-anomer) 97.3 (C-1), 76.9 (C-3), 69.2 (C-6), which is consistent with previously reported values (Ito et al. (1980) Carbohydrate Res. 86:193).

reactant | benzyloxyacetaldehyde | 1.0 mmol, 150 mg | C(C1=CC=CC=C1)OCC=O | C9H10O2
reactant | (2S,5S)-5-benzyl-2-tert-butyl-3-methylimidazolidin-4-one trichloroacetate | 67 μmol, 27.3 mg | ClC(C(=O)O)(Cl)Cl.C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C(C)(C)C)C)=O
solvent | diethyl ether | 3.0 M, 330 μL | C(C)OCC | C4H10O
product | 2,4,6-tri-O-benzyl-D-glucopyranose | 85% yield | C(C1=CC=CC=C1)O[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C27H30O6
